US08030302B2
To a 4-necked 3 L round bottom flask, is added EtOH (1500 mL), ethyl 3-(4-fluorophenylamino)-3-oxopropanoate (139 g, 617 mmol), sodium ethoxide (65.6 g, 925 mmol) and 4-methoxy-3-buten-2-one (103 g, 925 mmol). The mixture is refluxed for 3 hours. After the solution is cooled to RT, the reaction mixture is concentrated under reduced pressure to remove the EtOH. The residue is diluted with DCM (700 mL) and 1 M HCl (1500 mL). The aqueous phase is extracted with DCM (3×500 mL). The combined organic extracts are washed with saturated aqueous sodium chloride (1000 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue is triturated with EtOAc (150 mL) at RT (10-15° C.) for 1 hour. After filtration and washing with EtOAc (50 mL), 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid is obtained as a yellow solid (85.3 g, 56% yield). MS (m/z): 248 (M+H).

reactant | ethyl 3-(4-fluorophenylamino)-3-oxopropanoate | 617 mmol, 139 g | FC1=CC=C(C=C1)NC(CC(=O)OCC)=O | C11H12FNO3
reactant | sodium ethoxide | 925 mmol, 65.6 g | [O-]CC.[Na+]
reactant | 4-methoxy-3-buten-2-one | 925 mmol, 103 g | COC=CC(C)=O | C5H8O2
solvent | EtOH | 1500 mL | CCO | C2H6O
product | 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
